US07598423B2
Synthesis of 1-[3-ethyl-2-hydroxy-4-(4-{(tetrahydro-pyran-2-yloxy)-[3-(2H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-phenyl]-ethanone
Employing the procedure of Example 1 using 3-[[4-(4-acetyl-2-ethyl-3-hydroxy-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile (869 mg, 1.79 mmol), sodium azide (1.16 g, 17.9 mmol), and triethylamine hydrochloride (2.46 g, 17.9 mmol), the title product is obtained as a clear oil (900 mg, 66%): MS (esi negative) m/z (rel intensity) 527 (100).

reactant | 3-[[4-(4-acetyl-2-ethyl-3-hydroxy-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 1.79 mmol, 869 mg | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)OC2OCCCC2)C=C1)CC)O | C30H31NO5
reactant | sodium azide | 17.9 mmol, 1.16 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 17.9 mmol, 2.46 g | Cl.C(C)N(CC)CC
product | 1-[3-ethyl-2-hydroxy-4-(4-{(tetrahydro-pyran-2-yloxy)-[3-(2H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-phenyl]-ethanone | C(C)C=1C(=C(C=CC1OCC1=CC=C(C=C1)C(C1=CC(=CC=C1)C=1N=NNN1)OC1OCCCC1)C(C)=O)O | C30H32N4O5
